2128-08-16 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2128-8-15**] 11:00 AM
   inserted [**2128-8-10**]
 BRONCHOSCOPY - At [**2128-8-15**] 03:30 PM
 ARTERIAL LINE - START [**2128-8-15**] 04:00 PM
   - nasally intubated
   - s/p 2 units pRBCs for mixed venous SvO2 35 after 2.2L fluid
   resuscitation
   - bronched and found lots of mucus and thick secretions
   - placed A-line
   - off pressors from 2200 to 0000 and then hypotensive again and put
   back on levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-8-15**] 08:00 PM
   Cefipime - [**2128-8-16**] 04:00 AM
   Ciprofloxacin - [**2128-8-16**] 04:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-8-15**] 10:05 PM
   Midazolam (Versed) - [**2128-8-16**] 04:55 AM
   Fentanyl - [**2128-8-16**] 04:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-16**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (96.9
   HR: 85 (84 - 116) bpm
   BP: 105/56(73) {78/50(45) - 129/68(87)} mmHg
   RR: 9 (9 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
           Total In:
                                                                  4,192 mL
                                                                  3,414 mL
   PO:
           TF:
                                                                    348 mL
                                                                    417 mL
   IVF:
                                                                  3,362 mL
                                                                  2,660 mL
   Blood products:
                                                                    423 mL
                                                                    277 mL
   Total out:
                                                                  1,147 mL
                                                                    436 mL
   [**Year (4 digits) 379**]:
                                                                    817 mL
                                                                    436 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,045 mL
                                                                  2,978 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 640 (640 - 640) mL
   Vt (Spontaneous): 769 (724 - 1,100) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI: 15
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.44/39/98.[**Numeric Identifier 176**]/25/1
   Ve: 10.8 L/min
   PaO2 / FiO2: 123
   Physical Examination
   General: Mildly sedated on propofol, able to nod to questions
   appropriatelt
   HEENT: Sclera anicteric, MM dry, nasotracheal tube in place, unable to
   open mouth significantly
   Neck: supple, JVP not elevated, no LAD
   Lungs: Decreased breath sound on right lower lung field, ronchi over
   right lower lung field, left side clear, no wheezes or rales
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, PEG tube site healing
   well with no erythema or pus, ileostomy bag in place, site intact
   GU: foley draining clear [**Numeric Identifier **]
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   351 K/uL
   10.0 g/dL
   122 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.0 mEq/L
   8 mg/dL
   104 mEq/L
   136 mEq/L
   30.3 %
   20.6 K/uL
        [image002.jpg]
                             [**2128-8-15**]  04:56 PM
                             [**2128-8-15**]  05:01 PM
                             [**2128-8-16**]  03:58 AM
                             [**2128-8-16**]  04:02 AM
   WBC
   19.6
   20.6
   Hct
   24.9
   30.3
   Plt
   461
   351
   Cr
   0.7
   0.6
   TCO2
   30
   27
   Glucose
   96
   122
   Other labs: Differential-Neuts:93.2 %, Lymph:3.2 %, Mono:3.4 %, Eos:0.1
   %, Lactic Acid:1.0 mmol/L, Ca++:7.2 mg/dL, Mg++:1.5 mg/dL, PO4:2.8
   mg/dL
   .
   Bronchial Lavage: Polys: 99, Lymphs: 0, Monos: 1
   Cardiac enzymes: Trop: 0.01, CMMB: 5
   Blood cx pending
   [**Year (4 digits) 379**] Cx pending
   C. Diff A and B: negative
   CTA:
   1. No pulmonary embolus or acute aortic abnormality.
   2. Interval increase in bilateral pleural effusions, moderate on the
   right
   and small on the left.
   3. Considerable increased consolidation of the right lower lobe, with
   scattered ground glass opacities in other lobes bilaterally, suggesting
   pneumonia.
   4. Unchanged right anterior fifth rib fracture and multilevel thoracic
   vertebral body compression deformities.
   CXR (my read):
   -endotracheal tube in place
   -worsening right sided pleural effusion
   Assessment and Plan
   60 year old male with a history of invasive squamous cell carcinoma of
   the oropharynx and tongue is transferred to the ICU for hypoxic
   respiratory failure and hypotension.
   Hypoxic Respiratory Failure:  Most likely etiology is mucous plugging,
   pleural effusion and right lower lobe collapse as seen on CTA.  Imaging
   not consistent with pulmonary embolism.  No significant pulmonary edema
   appreciated on chest CT concerning for cardiac etiology and EKG is not
   concerning for ischemia.  Rising WBC count in this setting concerning
   for overlying infection. Anesthesia and ENT consulted immediately on
   arrival to [**Hospital Unit Name 1**].  Patient now intubated nasotracheally.
   - followup BAL cultures
   - vancomycin, cefepime and ciprofloxacin for health care associated
   pneumonia
   - titrate down oxygen as tolerated for target oxygen saturations > 92%
   -> repeat ABG, decr driving pressure, decr pressure support
   - currently doing well on pressure support, but if worsening
   respiratory status will switch to assist control
   - no need for emergent tracheostomy as airway currently stable, will
   rediscuss if necessary for planned treatment of head and neck cancer
   - consider therapeutic thoracentesis
   Septic Shock:  Patient afebrile but with tachycardia, hypotension, and
   leukocytosis.  Patient developed hypotension on the floor to 80s
   systolic, now exacerbated post-intubation after receiving vasodilating
   medications.  Hypotension is refractory to fluid boluses and currently
   requiring levophed for blood pressure support.  Most likely related to
   sepsis in setting of pneumonia.  Currently with PICC line for access.
   - IVF boluses for target MAP > 60, UOP > 30 cc/hr
   - currently on levophed (0.02) -> will wean as tolerated
   - ScVO2  was low yesterday at 35, was transfused 2 units prbcs, then 80
   - arterial line placed for closer monitoring
   - will hold on central line for now given PICC line available for
   pressors and adequate peripheral access
   - vancomycin, cefepime and ciprofloxacin for antibiotic coverage
   - followup blood, [**Hospital Unit Name **], sputum, and stool cultures
   - will trend lactate
   Malnutrition:  Patient presented with dehydration now s/p PEG tube
   placement for nutritional support.
   - continue tube feeds
   - [**Hospital1 7**] electrolytes to closely monitor for development of refeeding
   syndrome
   - nutrition consult
   Squamous Cell Carcinoma of oropharynx and tongue:  Initial plan was to
   start chemotherapy today.  He is s/p three days of high dose
   dexamethasone in anticipation.  Now course complicated by acute
   respiratory failure.
   - oncology to continue to follow in [**Last Name (LF) 1**], [**First Name3 (LF) **] need to reassess plans
   for chemotherapy
   Anion Gap Acidosis:  Noted on floor, now resolved with IVF, likely
   secondary to starvation ketosis.
   - continue tube feeds
   Anemia:  Baseline hematocrit in high 20s.  Normocytic.  Unclear
   etiology but in setting of ileostomy with possible nutritional
   deficiencies.
   - active type and screen
   - consider transfusion if ScVO2 below 70
   - iron studies, B12, folate, reticulocyte count, haptoglobin, biliribin
   were done -> not in DIC, not hemolyzing, poor marrow production
   - continue iron supplements, folate
   Back Pain:  Patient was receiving morphine PCA on floor for acute
   compression fractures.
   - fentanyl for sedation and pain control while intubated
   GERD:
   - continue lansoprazole
   Depression:
   - continue bupropion and citalopram
   FEN: IVF for resuscitation parameters as above, [**Hospital1 7**] electrolytes while
   starting tube feeds, tube feeds for nutrition
   Prophylaxis: Subutaneous heparin
   Access: peripherals, right PICC
   Code:  Full (discussed with patient)
   Communication: Patient, Wife [**Name (NI) 9462**] [**Name (NI) 2544**] [**Telephone/Fax (1) 9726**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2128-8-15**] 05:03 PM 65 mL/hour
   Glycemic Control:  monitoring
   Lines:
   PICC Line - [**2128-8-15**] 11:00 AM
   20 Gauge - [**2128-8-15**] 03:06 PM
   Arterial Line - [**2128-8-15**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2128-08-16 09:09:00 Physician Attending Progress Note
Chief Complaint: hypoxic resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2128-8-15**] 11:00 AM
   inserted [**2128-8-10**]
 BRONCHOSCOPY - At [**2128-8-15**] 03:30 PM
 ARTERIAL LINE - START [**2128-8-15**] 04:00 PM
   intubated after arival to ICU, bronchoscopy performed for BAL, plugging
   transfused 2 units prbcs (SVO2 35)
   transitioned off levophed
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-8-15**] 08:00 PM
   Cefipime - [**2128-8-16**] 04:00 AM
   Ciprofloxacin - [**2128-8-16**] 04:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-8-15**] 10:05 PM
   Midazolam (Versed) - [**2128-8-16**] 04:55 AM
   Fentanyl - [**2128-8-16**] 04:55 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-16**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.2
C (97.2
   HR: 92 (83 - 116) bpm
   BP: 110/64(79) {78/50(45) - 129/68(87)} mmHg
   RR: 11 (9 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
           Total In:
                                                                  4,192 mL
                                                                  3,595 mL
   PO:
           TF:
                                                                    348 mL
                                                                    553 mL
   IVF:
                                                                  3,362 mL
                                                                  2,705 mL
   Blood products:
                                                                    423 mL
                                                                    277 mL
   Total out:
                                                                  1,147 mL
                                                                    566 mL
   [**Year (4 digits) 379**]:
                                                                    817 mL
                                                                    566 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,045 mL
                                                                  3,029 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 640 (640 - 640) mL
   Vt (Spontaneous): 769 (724 - 1,100) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI: 15
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.44/39/98.[**Numeric Identifier 176**]/25/1
   Ve: 10.8 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: r)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   351 K/uL
   122 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.0 mEq/L
   8 mg/dL
   104 mEq/L
   136 mEq/L
   30.3 %
   20.6 K/uL
        [image002.jpg]
                             [**2128-8-15**]  04:56 PM
                             [**2128-8-15**]  05:01 PM
                             [**2128-8-16**]  03:58 AM
                             [**2128-8-16**]  04:02 AM
   WBC
   19.6
   20.6
   Hct
   24.9
   30.3
   Plt
   461
   351
   Cr
   0.7
   0.6
   TCO2
   30
   27
   Glucose
   96
   122
   Other labs: Differential-Neuts:93.2 %, Lymph:3.2 %, Mono:3.4 %, Eos:0.1
   %, Lactic Acid:1.0 mmol/L, Ca++:7.2 mg/dL, Mg++:1.5 mg/dL, PO4:2.8
   mg/dL
   Fluid analysis / Other labs: SVO2 now 81
   lactate 2.5--1.0
   trop .01
   Imaging: cxr-->
   Microbiology: c diff neg, bl/[**Year (4 digits) **] neg
   BAL  cx-->4+ GNR, 1+ GPC
   Assessment and Plan
   60 yo M recently dx SqCCa oropharynx and tongue, admitted [**8-6**] after
   syncopal episode attributed to dehydration in setting of several wks of
   poor PO intake. Had PEG placement [**8-12**], Received dexamethsone X 3 days
   in preparation for chemo initiation, received morphine PCA  for pain
   from jaw and compression fxs.  Developed increasing O2 requirement
   with sm b/l effusions for which he was diuresed with lasix without
   improvement. This am triggered for hypoxia and hypotension (10L FM
sats low 90's, systolics 80
s and transferred to [**Hospital Unit Name 1**] for further
   management. En route to ICU had emergent CTA
 no PE, showed RLL
   atelectasis/collapse with airway mucus and b/l pl effusions.
   Nasotracheally intubated after arrival for increased WOB/hypoxemia w/
   peri-intubation hypotension for which IVFs and levophed were intiaited.
   60 yo M w/
          Sepsis/hypotension
          Acute hypoxic resp failure
          RLL collapse/atelectasis
          Hypotension
          Leukoctysis
          Pl effusions
          SqCCa of oropharynx and tongue
          AGMA--(resolved) [**1-19**] starvation ketosis
          Depression (celexa)
   Acute hypoxic resp failure in setting of RLL atelectasis/plugging and
   PNA. Also with increasing plueral effusion on R which may further limit
   reexpansion of R lung. Poor secretion clearance in setting of limited
   oral opening and sedation from ongoing need for sedation and pain
   medications.
   Agree with plan to con
t empiric antibx coverage for HAP (vanco,
   cefepime and cipro).  F/u cxs and adjust antibx accordingly. Adjust
   vent settingsfollowing abgs
 can likely decrease FIO2 and will adjust
   PS to optimize pH. Continue MDIS, aggressive sx and chest PT. [**Month (only) 51**]
   benefit from dx/therapeutic [**Female First Name (un) 217**] on R side to aid with lung
   resexpansion. Barriers to extubation at this time include l;arge A-a
   gradient and secretion clearance. Probable need for trach down the line
   to be addressed after acute issues have resolve with input from
   oncology team regarding prognosis as pt has been resistant to this in
   past.  Hypotension multifactorial (meds from intubation, prior
   diuresis, and sepsis all factors)-- improving after fluids and prbc
   transfusion. [**Female First Name (un) 379**] outpt adequuate and lactate normalized and svo2 now
   > 70.  Wean levo to off maintaing MAPs >60. worsened in setting of
   intubation. He has a pronounced leukocytosis but remains AF, noting he
   has been on recent steroids.  Will bolus IVFs, place A-line, and wean
   levophed off, keeping MAPS > 60 and monitoring MS [**First Name (Titles) **] [**Last Name (Titles) **] outpt. TFs
   via PEG with nutrition following, monitoring lytes and phose as he is
   at risk for refeeding syndrome.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2128-8-15**] 05:03 PM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2128-8-15**] 11:00 AM
   20 Gauge - [**2128-8-15**] 03:06 PM
   Arterial Line - [**2128-8-15**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2128-08-17 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - PCP was updated
   - FiO2 weaned to 60% with PS 5/5. RSBI: 16
   - levophed was weaned off.  Got 4.5 L fluid boluses in last 24 hours
   for SBP in high 80s.  Stabilized in mid 90s.
   - heme onc: tumor is likely chemo sensitive.  Was given dexa [**8-16**] with
   plans of starting chemo on [**8-17**].  Also believe that patient may not
   require trach.
   - BAL: gram stain 4+ PMNs, 4+ gram neg rods, 1+ gram positive cocci in
   pairs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-8-16**] 07:35 PM
   Cefipime - [**2128-8-17**] 03:26 AM
   Ciprofloxacin - [**2128-8-17**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-8-16**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-17**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.9
C (96.6
   HR: 77 (74 - 118) bpm
   BP: 116/60(77) {84/52(62) - 133/69(88)} mmHg
   RR: 8 (7 - 16) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 63.7 kg
   Height: 73 Inch
    Mixed Venous O2% Sat: 79 - 98
   Total In:
                                                                  8,301 mL
                                                                    872 mL
   PO:
   TF:
                                                                  1,552 mL
                                                                    467 mL
   IVF:
                                                                  6,292 mL
                                                                    365 mL
   Blood products:
                                                                    277 mL
   Total out:
                                                                  1,024 mL
                                                                    478 mL
   Urine:
                                                                    924 mL
                                                                    278 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,277 mL
                                                                    395 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 640 (640 - 640) mL
   Vt (Spontaneous): 665 (665 - 958) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 16
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.42/38/81.[**Numeric Identifier 218**]/21/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 135
   Physical Examination
   General: Mildly sedated on propofol, able to nod to questions
   appropriatelt
   HEENT: Sclera anicteric, MM dry, nasotracheal tube in place, unable to
   open mouth significantly
   Neck: supple, JVP not elevated, no LAD
   Lungs: Decreased breath sound on right lower lung field, ronchi over
   right lower lung field, left side clear, no wheezes or rales
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, PEG tube site healing
   well with no erythema or pus, ileostomy bag in place, site intact
   GU: foley draining clear urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   243 K/uL
   9.5 g/dL
   173 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.5 mEq/L
   13 mg/dL
   104 mEq/L
   133 mEq/L
   29.4 %
   20.7 K/uL
        [image002.jpg]
                             [**2128-8-15**]  04:56 PM
                             [**2128-8-15**]  05:01 PM
                             [**2128-8-16**]  03:58 AM
                             [**2128-8-16**]  04:02 AM
                             [**2128-8-16**]  10:25 AM
                             [**2128-8-16**]  02:34 PM
                             [**2128-8-16**]  04:13 PM
                             [**2128-8-16**]  08:53 PM
                             [**2128-8-17**]  03:54 AM
   WBC
   19.6
   20.6
   20.7
   Hct
   24.9
   30.3
   29.4
   Plt
   461
   351
   243
   Cr
   0.7
   0.6
   0.6
   0.7
   TCO2
   30
   27
   26
   26
   25
   Glucose
   96
   122
   116
   173
   Other labs:
    PT / PTT / INR:12.9/35.2/1.1
   Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   MICRO:
GRAM STAIN (Final [**2128-8-15**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
   RESPIRATORY CULTURE (Preliminary):
      OROPHARYNGEAL FLORA ABSENT.
         GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML..
   .
   Blood culture ([**8-15**]): neg
   c.diff neg x 1
   urine culture ([**8-15**]): neg
   IMAGING:
   CXR ([**8-17**]): my read: right lung field opacity significantly cleared
   while the left lung field has significantly more opacity.
   Assessment and Plan
   60 year old male with a history of invasive squamous cell carcinoma of
   the oropharynx and tongue is transferred to the ICU for hypoxic
   respiratory failure and hypotension.
   # Hypoxic Respiratory Failure:  Likely etiologies include infections
   and pleural effusion. Imaging not consistent with pulmonary embolism.
   Elevated WBC is consistent with infection. Patient now intubated
   nasotracheally.
   - followup BAL cultures
   - continue vancomycin, cefepime and ciprofloxacin for health care
   associated pneumonia
   - titrate down oxygen to 40% FiO2 to assess oxygenation.
   - Increase PEEP to see if can help open up some of the alveoli and
   improve oxygenation
   - currently doing well on pressure support, but if worsening
   respiratory status will switch to assist control
   - no need for emergent tracheostomy as airway currently stable, will
   rediscuss if necessary for planned treatment of head and neck cancer
   - consider therapeutic thoracentesis if pleural effusion worsens
   - consider repeat bronchoscopy
   - will get CVP after CVL placed today to better assess intravascular
   volume
   # Septic Shock:  BP improved. Levophed weaned off.  Patient was
   afebrile but with tachycardia, hypotension, and leukocytosis, and he
   developed hypotension on the floor to 80s systolic, which was
   exacerbated post-intubation after receiving vasodilating medications.
   Hypotension was initially refractory to fluid boluses so he was
   requiring levophed for blood pressure support.  Most likely related to
   sepsis in setting of pneumonia.  Currently with PICC line for access.
   Off levophed currently.
   - vancomycin, cefepime and ciprofloxacin for antibiotic coverage
   - IVF boluses for target MAP > 60, UOP > 30 cc/hr
   - ScVO2  was low [**2128-8-15**] at 35, was transfused 2 units pRBCs, then 80
   - arterial line placed for closer monitoring
   - will get CVL access today for starting chemotherapy
   - followup blood, urine, sputum, and stool cultures
   - will get CVP after CVL placed today to better assess intravascular
   volume
   - will trend lactate
   # Squamous Cell Carcinoma of oropharynx and tongue:  start chemotherapy
   today. Got one dose of decadron yesterday, will need two more doses in
   the next two days
   - start chemo today
   - f/u oncology recs
   - place CVL for chemotherapy
   # Leukocytosis: Likely infectious. Also could be contributed by
   steroids.
   - continue vancomycin, cefepime and ciprofloxacin for antibiotic
   coverage
   - continue to monitor
   # Malnutrition:  Patient presented with dehydration now s/p PEG tube
   placement for nutritional support.
   - continue tube feeds
   - check albumin
   - [**Hospital1 7**] electrolytes to closely monitor for development of refeeding
   syndrome, check phosphorus
   - nutrition following
   # Anemia:  Baseline hematocrit in high 20s.  Normocytic.  Unclear
   etiology but in setting of malignancy, and  ileostomy, with possible
   nutritional deficiencies. Anemia of inflammation also plays a role.
   - active type and screen
   - consider transfusion if ScVO2 below 70
   - not in DIC, not hemolyzing, low reticulocyte count
   - continue iron supplements, folate
   # Hyponatremia: possibly [**1-19**] volume overload. Also could be SIADH in
   the setting of acute illness.
   - check Uosm and urine Na.
   # Anion Gap Acidosis:  Noted on floor, now resolved with IVF, likely
   secondary to starvation ketosis.
   - continue tube feeds
   # Back Pain:  Patient was receiving morphine PCA on floor for acute
   compression fractures.
   - fentanyl for sedation and pain control while intubated
   # GERD:
   - continue lansoprazole
   # Depression:
   - continue bupropion and citalopram
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2128-8-16**] 07:23 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2128-8-15**] 11:00 AM
   20 Gauge - [**2128-8-15**] 03:06 PM
   Arterial Line - [**2128-8-15**] 04:00 PM
   DVT: SQ UF Heparin (Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2128-08-17 11:20:00 Physician Attending Progress Note
Chief Complaint: acute hypoxemic resp failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo M w/ recently diagnosied SqCCa of oropharynx and tongue
   transferred to ICU for management of acute hypoxemic resp failure and
   hypotension/sepsis in setting of HAP.
   24 Hour Events:
   fio2 weaned to 60%, on PS 5/5
   weaned off levophed, BP responded to IVF (received 6 L)
   received dexa yesterday with hemo onc plan to start chemo yesterday
   frequent sx'ing with thick green secretions
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2128-8-17**] 03:26 AM
   Ciprofloxacin - [**2128-8-17**] 04:00 AM
   Vancomycin - [**2128-8-17**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-8-17**] 08:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-17**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.5
C (97.7
   HR: 84 (74 - 118) bpm
   BP: 110/62(77) {84/52(62) - 133/69(88)} mmHg
   RR: 7 (7 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 63.7 kg
   Height: 73 Inch
   Mixed Venous O2% Sat: 79 - 98
   Total In:
                                                                  8,301 mL
                                                                  1,463 mL
   PO:
   TF:
                                                                  1,552 mL
                                                                    701 mL
   IVF:
                                                                  6,292 mL
                                                                    623 mL
   Blood products:
                                                                    277 mL
   Total out:
                                                                  1,024 mL
                                                                    598 mL
   Urine:
                                                                    924 mL
                                                                    398 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,277 mL
                                                                    865 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 640 (640 - 640) mL
   Vt (Spontaneous): 900 (665 - 958) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 16
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.42/38/81.[**Numeric Identifier 218**]/21/0
   Ve: 9 L/min
   PaO2 / FiO2: 135
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube,
   nasotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: r base)
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   243 K/uL
   173 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.5 mEq/L
   13 mg/dL
   104 mEq/L
   133 mEq/L
   29.4 %
   20.7 K/uL
        [image002.jpg]
                             [**2128-8-15**]  04:56 PM
                             [**2128-8-15**]  05:01 PM
                             [**2128-8-16**]  03:58 AM
                             [**2128-8-16**]  04:02 AM
                             [**2128-8-16**]  10:25 AM
                             [**2128-8-16**]  02:34 PM
                             [**2128-8-16**]  04:13 PM
                             [**2128-8-16**]  08:53 PM
                             [**2128-8-17**]  03:54 AM
   WBC
   19.6
   20.6
   20.7
   Hct
   24.9
   30.3
   29.4
   Plt
   461
   351
   243
   Cr
   0.7
   0.6
   0.6
   0.7
   TCO2
   30
   27
   26
   26
   25
   Glucose
   96
   122
   116
   173
   Other labs: PT / PTT / INR:12.9/35.2/1.1, Differential-Neuts:93.2 %,
   Lymph:3.2 %, Mono:3.4 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.8
   mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Imaging: cxr with increasing effusions b/l, r asd/atelectasis
   Microbiology: BAL--> GNR, GPC
   bl ngtd
   c diff neg
   urine cx neg
   Assessment and Plan
   60 yo M w/ recently diagnosied SqCCa of oropharynx and tongue
   transferred to ICU for management of acute hypoxemic resp failure and
   hypotension/sepsis in setting of HAP.
   Primary issues include:
          Sepsis/hypotension
          Acute hypoxic resp failure
          HAP
          Leukocytosis
          Pleural effusions
          SqCCa of oropharynx and tongue
          AGMA--(resolved) [**1-19**] starvation ketosis --> now NGMA
          Depression (celexa)
              Hyponatremia
   Acute hypoxic resp failure in setting of RLL atelectasis/mucus plugging
   and HAP. Also with increasing pleural effusions which may further limit
   full re-expansion of R lung. Poor secretion clearance in setting of
   limited oral opening and sedation from ongoing pain medication
   requirement will be a long standing issue and there have been ongoing
   discussions regarding possible tracheostomy placement.  Additionally,
   pt is at risk for chronic aspiration and emesis in setting of chemo.
   At present, barriers to extubation include large A-a gradient and
   significant secretions/sx needs.
   Agree with plan to con
t empiric antibx coverage for HAP (vanco,
   cefepime and cipro).  Growing GNR and GPC in BAL cx, ID pending.  Will
   follow cxs and adjust antibx regimen accordingly. Adjust vent settings
   following abgs can decrease FIO2 and trial increasing peep for possible
   small component of collapse, plugging. Consider clean out bronch.  Has
   b/l effusions, in setting of fluid resus.  Unclear if that is impacting
   lung reexpansion./  Will follow and consider IR guided tap.   Continue
   MDIs, aggressive sx/pulm toilet. Pt may ultimately benefit from R
   dx/therapeutic [**Female First Name (un) 217**] to aid with lung reexpansion, noting that his R
   effusion has increased in the setting of fluid/blood resus.  Probable
   need for trach down the line to be addressed after acute issues have
   resolved with input from oncology team regarding prognosis as pt has
   been resistant to this in past.  His hypotension appears multifactorial
   (meds from intubation, prior diuresis, and sepsis all
   factors)--required large amts of fluids overnight and now lighter on
   sedation.  To montior CVP and also for improvee access will palce
   centrasl line. SVO2 has remained > 70 and lactate remained wnl.
   improving after fluids and prbc transfusion. Urine outpt remains
   adequate.  Lactate (did rise) is now normalized and svo2 now > 70 after
   blood.  Will wean levo to off maintaining MAPs >60. He continues to
   have a pronounced leukocytosis but remains AF, noting he has been on
   recent steroids.  C diff sent and infection work-up underway.  Plan for
   initiaiton of chemo today.  Montior for capillary leak syndrome/edema.
   TFs via PEG with nutrition following. Hyponatremic--liekly hypovolemic,
   though at risk for siadh given his pulm process.  Will send urine na
   and osms.
    Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2128-8-16**] 07:23 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2128-8-15**] 11:00 AM
   20 Gauge - [**2128-8-15**] 03:06 PM
   Arterial Line - [**2128-8-15**] 04:00 PM
   Comments: will palce central line for improved access and cvp
   montioring
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2128-08-18 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Chemo started yesterday (Cisplatin and docetaxel load, 5-FU for 5
   days)
   - heme/onc recommended 1L NS pre- and after cisplatin
   - SBP found to be in the 80s, after 1L bolus, SBP returned to 100-125s
   with MAP of 60-70s.  Received 1L after chemo.  BPs now stable.
   - Found to desaturate to low 90s overnight.
   - L IJ line placed, cxr checked, in good place
   - pt had lots of secretions, especially after CVL was placed
   - CVP 13 at 8PM.  Trended down overnight with CVP of 4 at 7AM.
   - Hyponatremia at 133, Uosm 793. consistent with SIADH
   .
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2128-8-17**] 05:00 PM
   Vancomycin - [**2128-8-17**] 07:45 PM
   Cefipime - [**2128-8-18**] 04:44 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-8-17**] 10:06 PM
   Midazolam (Versed) - [**2128-8-18**] 12:58 AM
   Fentanyl - [**2128-8-18**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-18**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 84 (77 - 100) bpm
   BP: 114/50(71) {81/49(60) - 145/78(101)} mmHg
   RR: 9 (7 - 14) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 63.7 kg
   Height: 73 Inch
    CVP: 8 (8 - 13)mmHg
   Total In:
                                                                  4,763 mL
                                                                    806 mL
   PO:
   TF:
                                                                  1,560 mL
                                                                    462 mL
   IVF:
                                                                  2,823 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  1,643 mL
                                                                  1,380 mL
   Urine:
                                                                  1,243 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,120 mL
                                                                   -571 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,001 (777 - 1,164) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 12
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///22/
   Ve: 9.4 L/min
   Physical Examination
   General: Mildly sedated on propofol, able to nod to questions
   appropriatelt
   HEENT: Sclera anicteric, MM dry, nasotracheal tube in place, unable to
   open mouth significantly
   Neck: supple, JVP not elevated, no LAD
   Lungs: Auscultated anteriorly.  Decreased breath sound over  right
   lower lung field with rales heard over right lateral lobe, left side
   clear
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, PEG tube site healing
   well with no erythema or pus, ileostomy bag in place, site intact
   GU: foley draining clear urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   278 K/uL
   10.0 g/dL
   154 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   16 mg/dL
   103 mEq/L
   133 mEq/L
   30.7 %
   22.8 K/uL
        [image002.jpg]
                             [**2128-8-15**]  04:56 PM
                             [**2128-8-15**]  05:01 PM
                             [**2128-8-16**]  03:58 AM
                             [**2128-8-16**]  04:02 AM
                             [**2128-8-16**]  10:25 AM
                             [**2128-8-16**]  02:34 PM
                             [**2128-8-16**]  04:13 PM
                             [**2128-8-16**]  08:53 PM
                             [**2128-8-17**]  03:54 AM
                             [**2128-8-18**]  04:17 AM
   WBC
   19.6
   20.6
   20.7
   22.8
   Hct
   24.9
   30.3
   29.4
   30.7
   Plt
   461
   351
   243
   278
   Cr
   0.7
   0.6
   0.6
   0.7
   0.6
   TCO2
   30
   27
   26
   26
   25
   Glucose
   96
   122
   116
   173
   154
   Other labs: Albumin:2.1 g/dL, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.9
   mg/dL
   .
   Micro:
   -blood culture ([**2128-8-15**]): Pending, no growth to date
   -MRSA screen ([**2128-8-15**]): Pending
-BAL ([**2128-8-15**]): E. coli >[**Numeric Identifier 1106**] organisms/ml.  Gram negative Rods, second morpho
logy.  Pan sensitive.
   .
   Imaging:
   -CXR ([**2128-8-18**]): My read: possibly worsening bilateral pleural effusion,
   worse on the right side.  Endotracheal tube placement stable.  Left IJ
   placed.
   Assessment and Plan
   60 year old male with a history of invasive squamous cell carcinoma of
   the oropharynx and tongue is transferred to the ICU for hypoxic
   respiratory failure and hypotension.
   .
   # Hypoxic Respiratory Failure:  Occurred in setting of RLL
   atelectasis/mucous plugging, HAP, worsening pulmonary effusions
   limiting re-expansion of the lung love.  Also contributing are poor
   secretion and clearance of oral secretions due to oral opening and
   sedation.  Patient now intubated nasotracheally.  Bilateral pleural
   effusions likely due to fluid resuscitation vs. malignant effusion.
   - followup BAL cultures
 e. coli from BAL is pan sensitive.  Adjust
   antibiotics as culture data returns.
   - continue vancomycin, cefepime and ciprofloxacin for health care
   associated pneumonia until complete sensitivities return
   - increase PEEP from 5 to 7 and monitor improvement.
   - no need for emergent tracheostomy as airway currently stable, will
   rediscuss if necessary for planned treatment of head and neck cancer
   - consider therapeutic thoracentesis if pleural effusion worsens
   - repeat bronchoscopy today to clear secretions
   - CVL placed to assess intravascular volume
   - bilateral effusions likely due to fluid resuscitation in the setting
   of low albumin
    .
   # Septic Shock:  Likley secondary to sepsis in setting of pneumonia.
   BP hypotensive overnight, responded to 2L fluid boluses. Levophed
   weaned off.  Patient was afebrile but with tachycardia, hypotension,
   and leukocytosis.  Hypotension was initially refractory to fluid
   boluses so he was requiring levophed for blood pressure support.
   Currently with PICC line and CVL for access.
   - CVPs trended down overnight but now normotensive w/ urine outpt WNL.
   Lactate remain wnl.  His low albumin w/ third spacing with
   intravascular depletion which are likely contributing factor.
   - vancomycin, cefepime and ciprofloxacin for antibiotic coverage
   - IVF boluses for target MAP > 60, UOP > 30 cc/hr
   - repeat SVO2.   ScVO2  was low [**2128-8-15**] at 35, was transfused 2 units
   pRBCs, then 80
   - arterial line placed for closer monitoring
   - followup blood, urine, sputum, and stool cultures
   - will get CVP after CVL placed today to better assess intravascular
   volume
   - will trend lactate
   # Squamous Cell Carcinoma of oropharynx and tongue:  start chemotherapy
   today. Got one dose of decadron yesterday, will need two more doses in
   the next two days
   - start chemo today
   - f/u oncology recs
   - place CVL for chemotherapy
   # Leukocytosis: Likely infectious. Also could be contributed by
   steroids.
   - continue vancomycin, cefepime and ciprofloxacin for antibiotic
   coverage
   - continue to monitor
   # Malnutrition:  Patient presented with dehydration now s/p PEG tube
   placement for nutritional support.
   - continue tube feeds
   - check albumin
   - [**Hospital1 7**] electrolytes to closely monitor for development of refeeding
   syndrome, check phosphorus
   - nutrition following
   # Anemia:  Baseline hematocrit in high 20s.  Normocytic.  Unclear
   etiology but in setting of malignancy, and  ileostomy, with possible
   nutritional deficiencies. Anemia of inflammation also plays a role.
   - active type and screen
   - consider transfusion if ScVO2 below 70
   - not in DIC, not hemolyzing, low reticulocyte count
   - continue iron supplements, folate
   # Hyponatremia: possibly [**1-19**] hypovolemia vs SIADH (in the setting of
   squamous cell ca of lung vs. pulmonary process)
   - Urine Na 25 and Urine Osm 798.
   -continue to monitor, stable
   # Anion Gap Acidosis:  Noted on floor, now resolved with IVF, likely
   secondary to starvation ketosis.
   - continue tube feeds
   # Back Pain:  Patient was receiving morphine PCA on floor for acute
   compression fractures.
   - fentanyl for sedation and pain control while intubated
   # GERD:
   - continue lansoprazole
   # Depression:
   - continue bupropion and citalopram
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2128-8-16**] 07:23 PM 65 mL/hour
   Glycemic Control:
   Lines:
   CVP
 [**2128-8-17**] at 3:02PM
   PICC Line - [**2128-8-15**] 11:00 AM
   20 Gauge - [**2128-8-15**] 03:06 PM
   Arterial Line - [**2128-8-15**] 04:00 PM
   DVT: SQ UF Heparin (Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2128-08-18 12:57:00 Physician Attending Progress Note
Chief Complaint: hypoxemic resp failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo M w/ recently diagnosed SqCCa of oropharynx and tongue
   transferred to ICU for management of acute hypoxemic resp failure and
   hypotension/sepsis in setting of HAP.
   24 Hour Events:
 MULTI LUMEN - START [**2128-8-17**] 03:02 PM
   CVL placed in L IJ
   chemo initiated yesterday
   systolic bp drop to 80's with improvement after 1 L NS
                                                  History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2128-8-17**] 05:00 PM
   Cefipime - [**2128-8-18**] 04:44 AM
   Vancomycin - [**2128-8-18**] 08:23 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2128-8-18**] 12:58 AM
   Fentanyl - [**2128-8-18**] 03:15 AM
   Heparin Sodium (Prophylaxis) - [**2128-8-18**] 08:23 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-18**] 12:44 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.5
C (97.7
   HR: 93 (77 - 100) bpm
   BP: 109/49(70) {81/44(60) - 145/78(101)} mmHg
   RR: 15 (7 - 16) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.1 kg (admission): 63.7 kg
   Height: 73 Inch
   CVP: -2 (-2 - 13)mmHg
   Total In:
                                                                  4,763 mL
                                                                  2,317 mL
   PO:
   TF:
                                                                  1,560 mL
                                                                    820 mL
   IVF:
                                                                  2,823 mL
                                                                  1,338 mL
   Blood products:
   Total out:
                                                                  1,643 mL
                                                                  1,985 mL
   Urine:
                                                                  1,243 mL
                                                                  1,385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,120 mL
                                                                    332 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 942 (777 - 1,164) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 12
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.39/40/65/22/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 108
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) nasotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   r base/side, Diminished: basilar BS)
   Abdominal: Soft, Non-tender, Bowel sounds present, peg
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  warm
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   10.0 g/dL
   278 K/uL
   154 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   16 mg/dL
   103 mEq/L
   133 mEq/L
   30.7 %
   22.8 K/uL
        [image002.jpg]
                             [**2128-8-15**]  05:01 PM
                             [**2128-8-16**]  03:58 AM
                             [**2128-8-16**]  04:02 AM
                             [**2128-8-16**]  10:25 AM
                             [**2128-8-16**]  02:34 PM
                             [**2128-8-16**]  04:13 PM
                             [**2128-8-16**]  08:53 PM
                             [**2128-8-17**]  03:54 AM
                             [**2128-8-18**]  04:17 AM
                             [**2128-8-18**]  12:30 PM
   WBC
   19.6
   20.6
   20.7
   22.8
   Hct
   24.9
   30.3
   29.4
   30.7
   Plt
   461
   351
   243
   278
   Cr
   0.7
   0.6
   0.6
   0.7
   0.6
   TCO2
   27
   26
   26
   25
   25
   Glucose
   96
   122
   116
   173
   154
   Other labs: PT / PTT / INR:12.9/35.2/1.1, Differential-Neuts:93.2 %,
   Lymph:3.2 %, Mono:3.4 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Imaging: cxr with b/l asd and effusions et high
   Microbiology: [**8-15**] bl ngtd
   bal micro--> e coli, second gnr, gpc 1+
   Assessment and Plan
   60 yo M w/ recently diagnosed SqCCa of oropharynx and tongue
   transferred to ICU for management of acute hypoxemic resp failure and
   hypotension/sepsis in setting of HAP.
   Primary issues include:
          Sepsis/hypotension
          Acute hypoxic resp failure
          HAP (e coli, additional gnr, gpc)
          Leukocytosis
          Pleural effusions
          SqCCa of oropharynx and tongue
          Depression (celexa)
              Hyponatremia (new, mild, stable)
   Acute hypoxic resp failure in setting of RLL atelectasis/mucus plugging
   and HAP. Also with increasing pleural effusions which may further limit
   full re-expansion of R lung. Poor secretion clearance in setting of
   limited oral opening and sedation from ongoing pain medication
   requirement will be a long standing issue and there have been ongoing
   discussions regarding possible tracheostomy placement.  Additionally,
   pt is at risk for aspiration and emesis in setting of chemo.  At
   present, barriers to extubation include his large A-a gradient and
   significant secretions/sx needs
   Agree with plan to con
t current antibx coverage for HAP (vanco,
   cefepime and cipro). E coli (from BAL) is pan [**Doctor Last Name **].  Await  ID on
   additional bacteria. Will follow cxs and adjust antibx regimen
   accordingly.  Will trial increasing peep following abg to better
   recruit. Clean out bronch today given sig secretions and plugging.  B/l
   effusions have increased in setting of fluid resus given low albumin.
   Unclear if that is impacting lung reexpansion.  Will follow and
   consider IR guided tap.  Continue MDIs, aggressive sx/pulm toilet. Need
   for trach down the line to be addressed after acute issues have
   resolved with input from oncology team as pt has been resistant to this
   in past.  [**Month (only) 51**] be avoidable pending response to chemo.  With [**Name (NI) 9792**], pt is
   at high risk for sinusitis.
   Recurrent hypotension overnight resolved after additional IVFs.  CVPs
   running low but now normotensive w/ urine outpt adequate. Lactate
   remain wnl.  Continue to follow closely.  His low albumin w/ third
   spacing with intravascular depletion which are likely contributing
   factor.
   He continues to have a pronounced leukocytosis but remains AF, noting
   he is on steroids.  C diff neg and infection work-up pending.
   Continue chemo per onc team.  Will monitor for capillary leak
   syndrome/edema.
   Hyponatremic
urine osm and na seem most c/w comnination of hypovolemia
   and siadh (pna).  Monitor na.
    Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2128-8-17**] 08:01 PM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2128-8-15**] 11:00 AM
   20 Gauge - [**2128-8-15**] 03:06 PM
   Arterial Line - [**2128-8-15**] 04:00 PM
   Multi Lumen - [**2128-8-17**] 03:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum:
    I met with pt
s wife along with on call team, fellow and [**Doctor Last Name 478**] from
   social work.  We updated her as to pt
s status and answered all
   questions.  We explained that at present he is not ready for extubation
   and we will continue to assess for this, though if unable to move
   toward extubation we will discuss further about trach placement.  We
   will keep her updated as to any change in condition.
   Additional crit care time: 20 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2128-8-18**] 18:51 ------

2128-08-19 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2128-8-18**] 04:15 PM
 BLOOD CULTURED - At [**2128-8-18**] 07:42 PM
   from aline
 BLOOD CULTURED - At [**2128-8-19**] 05:06 AM
   from CVl
   - was bronched, not much exudates, some watery secretions
   - had family mtg with wife, discussed possibility of trach in future,
   wife agreeable
   - became hypotensive (78/42), started Levo
   - resent cx to make sure nothing new
   - Vanc trough before PM dose - 24.2, changed dose to 1000mg q24h, last
   dose is tomorrow AM
   - another CXR in PM: prelim read was possible increased opacity at the
   lung bases, but lung volumes are lower so this may reflect crowding.
   Otherwise, little change from prior.
   - briefly on assist control: resp distress, tachy, dropped sats, CXR
   looked worse s/p bronch, incr PEEP to 10, FiO2 60->70%, now back to 60,
   increased sedation
   - was given Lasix 10mg IV  -> thought is was flash pulm edema. pt
   improved. pt now back on PS [**4-25**], with FiO2 60%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-8-18**] 07:53 PM
   Cefipime - [**2128-8-19**] 03:57 AM
   Ciprofloxacin - [**2128-8-19**] 03:57 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2128-8-18**] 09:45 PM
   Fentanyl - [**2128-8-18**] 09:45 PM
   Furosemide (Lasix) - [**2128-8-18**] 10:10 PM
   Heparin Sodium (Prophylaxis) - [**2128-8-18**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-19**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (96.9
   HR: 84 (80 - 112) bpm
   BP: 110/50(70) {78/41(54) - 128/58(82)} mmHg
   RR: 7 (7 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.1 kg (admission): 63.7 kg
   Height: 73 Inch
    CVP: 5 (-2 - 9)mmHg
   Total In:
                                                                  5,614 mL
                                                                  1,251 mL
   PO:
   TF:
                                                                  1,560 mL
                                                                    485 mL
   IVF:
                                                                  3,764 mL
                                                                    766 mL
   Blood products:
   Total out:
                                                                  3,285 mL
                                                                  1,820 mL
   Urine:
                                                                  2,610 mL
                                                                  1,220 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  2,329 mL
                                                                   -569 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 973 (377 - 1,125) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.39/41/86.[**Numeric Identifier 143**]/25/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 145
   Physical Examination
   General: Mildly sedated on propofol, able to nod to questions
   appropriatelt
   HEENT: Sclera anicteric, MM dry, nasotracheal tube in place, unable to
   open mouth significantly
   Neck: supple, JVP not elevated, no LAD
   Lungs: Auscultated anteriorly.  Decreased breath sound over  right
   lower lung field with rales heard over right lateral lobe, left side
   clear
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, PEG tube site healing
   well with no erythema or pus, ileostomy bag in place, site intact
   GU: foley draining clear urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   236 K/uL
   9.7 g/dL
   145 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.1 mEq/L
   23 mg/dL
   102 mEq/L
   133 mEq/L
   31.0 %
   15.3 K/uL
        [image002.jpg]
                             [**2128-8-16**]  10:25 AM
                             [**2128-8-16**]  02:34 PM
                             [**2128-8-16**]  04:13 PM
                             [**2128-8-16**]  08:53 PM
                             [**2128-8-17**]  03:54 AM
                             [**2128-8-18**]  04:17 AM
                             [**2128-8-18**]  12:30 PM
                             [**2128-8-18**]  10:30 PM
                             [**2128-8-18**]  11:13 PM
                             [**2128-8-19**]  04:33 AM
   WBC
   20.7
   22.8
   15.3
   Hct
   29.4
   30.7
   31.0
   Plt
   243
   278
   236
   Cr
   0.6
   0.7
   0.6
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   26
   26
   25
   25
   26
   Glucose
   116
   173
   154
   145
   Other labs: Ca++:7.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Lactate: 1.4
   Micro: Blood culture ([**2128-8-15**] and [**2128-8-19**]): pending
   Vanc: 24.4
   CPK: 24
   Trop: 0.01
   BAL: ([**2128-8-15**]): e. coli X 2, pan sensitive
   Imaging: CXR worsening bilateral effusions
   Assessment and Plan
   60 year old male with a history of invasive squamous cell carcinoma of
   the oropharynx and tongue is transferred to the ICU for hypoxic
   respiratory failure and hypotension.
   .
   B/l effusions have increased in setting of fluids, given low albumin.
   Unclear if that is impacting lung reexpansion.  Also with pulm edema
   after sig fluids.  Will attempt gentle durresis using albumin and
   lasix.  Consider IR guided tap of pleural effusions.  Continue current
   vent settings with PS, mdis and pulm toliet.  Continue to assess for
   possible extubation, though likely will need trach.
   # Hypoxic Respiratory Failure:  Occurred in setting of RLL
   atelectasis/mucous plugging, HAP, worsening pulmonary effusions
   limiting re-expansion of the lung love.  Also contributing are poor
   secretion and clearance of oral secretions due to oral opening and
   sedation.  Patient now intubated nasotracheally.  Bilateral pleural
   effusions likely due to fluid resuscitation vs. malignant effusion.
   - dropped sats yesterday, briefly on assist control, but now back on PS
   and stable
   - followup BAL cultures for HAP
 e. coli from BAL is pan sensitive.
   Will discontinue cefepime and vancomycin.  Continue ciprofloxacin.
   - continue PEEP at 10 but attempt to wean as tolerated.
   - no need for emergent tracheostomy as airway currently stable, will
   rediscuss if necessary for planned treatment of head and neck cancer
   - consider therapeutic thoracentesis if pleural effusion worsens
   - bilateral effusions likely due to fluid resuscitation in the setting
   of low albumin
    .
   # Septic Shock:  Likley secondary to sepsis in setting of pneumonia.
   BP hypotensive overnight, levophed weaned off.  Patient was afebrile
   but with tachycardia, hypotension, and leukocytosis.   Currently with
   PICC line and CVL for access.
   - Hypotensive overnight requiring brief pressors (levophed).  Weaned
   successfully at CVPs trended down overnight but now normotensive w/
   urine outpt WNL.  Lactate remain wnl.
   - continue ciprofloxacin for antibiotic coverage given BAL
   sensitivities
   - IVF boluses for target MAP > 60, UOP > 30 cc/hr
   - repeat SVO2.   ScVO2  was low [**2128-8-15**] at 35, was transfused 2 units
   pRBCs, then 80
   - arterial line placed for closer monitoring
   - followup blood, urine, sputum, and stool cultures
   - will get CVP after CVL placed today to better assess intravascular
   volume
   - will trend lactate
   # Squamous Cell Carcinoma of oropharynx and tongue:  start chemotherapy
   today. One more day of decadron
   - continue chemo
   - f/u oncology recs
   - place CVL for chemotherapy
   # Leukocytosis: Likely infectious. Also could be contributed by
   steroids. Appears to be resolving
   - continue ciprofloxacin for antibiotic coverage
   - continue to monitor
   # Malnutrition:  Patient presented with dehydration now s/p PEG tube
   placement for nutritional support.
   - continue tube feeds
   - check albumin
   - check electrolytes to closely monitor for development of refeeding
   syndrome, check phosphorus
   - nutrition following
   # Anemia:  Baseline hematocrit in high 20s.  Normocytic.  Unclear
   etiology but in setting of malignancy, and  ileostomy, with possible
   nutritional deficiencies. Anemia of inflammation also plays a role.
   - active type and screen
   - consider transfusion if ScVO2 below 70
   - not in DIC, not hemolyzing, low reticulocyte count
   - continue iron supplements, folate
   # Hyponatremia: possibly [**1-19**] hypovolemia vs SIADH (in the setting of
   squamous cell ca of lung vs. pulmonary process)
   - Urine Na 25 and Urine Osm 798.
   -continue to monitor, stable
   # Anion Gap Acidosis:  Noted on floor, now resolved with IVF, likely
   secondary to starvation ketosis.
   - continue tube feeds
   # Back Pain:  Patient was receiving morphine PCA on floor for acute
   compression fractures.
   - fentanyl for sedation and pain control while intubated
   # GERD:
   - continue lansoprazole
   # Depression:
   - continue bupropion and citalopram
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2128-8-16**] 07:23 PM 65 mL/hour
   Glycemic Control:
   Lines:
   CVP
 [**2128-8-17**] at 3:02PM
   PICC Line - [**2128-8-15**] 11:00 AM
   20 Gauge - [**2128-8-15**] 03:06 PM
   Arterial Line - [**2128-8-15**] 04:00 PM
   DVT: SQ UF Heparin (Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2128-08-19 14:00:00 Physician Attending Progress Note
Chief Complaint: sepsis, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo M w/ recently diagnosed SqCCa of oropharynx and tongue
   transferred to ICU for management of acute hypoxemic resp failure and
   hypotension/sepsis in setting of HAP.
   24 Hour Events:
 BRONCHOSCOPY - At [**2128-8-18**] 04:15 PM
 BLOOD CULTURED - At [**2128-8-18**] 07:42 PM
   from aline
 BLOOD CULTURED - At [**2128-8-19**] 05:06 AM
   from CVl
   Bronched yesterday-->thin secretions throughout
   Hypotensive and placed back on levo transiently
   increasing O2 requirements-->diuresed and placed back on PS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-8-18**] 07:53 PM
   Cefipime - [**2128-8-19**] 03:57 AM
   Ciprofloxacin - [**2128-8-19**] 03:57 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2128-8-18**] 09:45 PM
   Fentanyl - [**2128-8-18**] 09:45 PM
   Furosemide (Lasix) - [**2128-8-18**] 10:10 PM
   Heparin Sodium (Prophylaxis) - [**2128-8-18**] 10:30 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-19**] 01:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 99 (80 - 112) bpm
   BP: 126/62(82) {78/41(54) - 128/62(82)} mmHg
   RR: 17 (7 - 18) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.1 kg (admission): 63.7 kg
   Height: 73 Inch
   CVP: 10 (1 - 10)mmHg
   Total In:
                                                                  5,614 mL
                                                                  2,185 mL
   PO:
   TF:
                                                                  1,560 mL
                                                                    889 mL
   IVF:
                                                                  3,764 mL
                                                                  1,295 mL
   Blood products:
   Total out:
                                                                  3,285 mL
                                                                  2,580 mL
   Urine:
                                                                  2,610 mL
                                                                  1,830 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  2,329 mL
                                                                   -395 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1 (1 - 1,186) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 8
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.39/41/86.[**Numeric Identifier 143**]/25/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: NTT
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   236 K/uL
   145 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.1 mEq/L
   23 mg/dL
   102 mEq/L
   133 mEq/L
   31.0 %
   15.3 K/uL
        [image002.jpg]
                             [**2128-8-16**]  10:25 AM
                             [**2128-8-16**]  02:34 PM
                             [**2128-8-16**]  04:13 PM
                             [**2128-8-16**]  08:53 PM
                             [**2128-8-17**]  03:54 AM
                             [**2128-8-18**]  04:17 AM
                             [**2128-8-18**]  12:30 PM
                             [**2128-8-18**]  10:30 PM
                             [**2128-8-18**]  11:13 PM
                             [**2128-8-19**]  04:33 AM
   WBC
   20.7
   22.8
   15.3
   Hct
   29.4
   30.7
   31.0
   Plt
   243
   278
   236
   Cr
   0.6
   0.7
   0.6
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   26
   26
   25
   25
   26
   Glucose
   116
   173
   154
   145
   Other labs: PT / PTT / INR:12.9/35.2/1.1, CK / CKMB /
   Troponin-T:24/3/<0.01, Differential-Neuts:93.2 %, Lymph:3.2 %, Mono:3.4
   %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, Ca++:7.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Imaging: cxr--b/l asd and effusuions, some improvement in pulm edema
   from yesterday
   Microbiology: bl ngtd
   bal-->2 diff e colis, pan [**Last Name (un) 270**]
   Assessment and Plan
   60 yo M w/ recently diagnosed SqCCa of oropharynx and tongue
   transferred to ICU for management of acute hypoxemic resp failure and
   hypotension/sepsis in setting of HAP.
   Primary issues include:
          Sepsis/hypotension (off pressors)
          Acute hypoxic resp failure
          HAP (e coli, pan [**Last Name (un) 270**])
              Capillary leak, edema
          Leukocytosis
          Pleural effusions
          SqCCa of oropharynx and tongue
          Depression (celexa)
              Hyponatremia (new, mild, stable)
   Acute hypoxic resp failure in setting of RLL atelectasis/mucus plugging
   and HAP. Also with increasing pleural effusions which may further limit
   full re-expansion of R lung. Poor secretion clearance in setting of
   limited oral opening and sedation from ongoing pain medication
   requirement will be a long standing issue and there have been ongoing
   discussions regarding possible tracheostomy placement.  Pulm edema
   further contributing, Additionally, pt is at risk for aspiration and
   emesis in setting of chemo.  At present, barriers to extubation include
   his large A-a gradient and significant secretions/sx needs
   Agree with plan to taper antibx to cipro given pan [**Doctor Last Name **] e coli in sputum
   as only pos cx.  Barriers to extubation remain peep dep, high A-a grad,
   pulm edema and poor airway ins etting of inability to open mouth, Will
   attempt gentle durresis using albumin and lasix.  Continue current vent
   settings.  Continuemdis and pulm toliet. B/l effusions have increased
   in setting of fluid resus given low albumin.  Unclear if that is
   impacting lung reexpansion.  Will follow and consider IR guided tap.
   Continue MDIs, aggressive sx/pulm toilet. Need for trach down the line
   to be addressed after acute issues have resolved with input from
   oncology team as pt has been resistant to this in past.
   His low albumin w/ third spacing with intravascular depletion which are
   likely contributing  factor.
   He continues to have a pronounced leukocytosis-is improving and he
   remains af, noting he is on steroids.  C diff neg and infection work-up
   pending.
   Continue chemo per onc team.  Will monitor for capillary leak
   syndrome/edema.
    Hyponatremic
stable Monitor na.
    Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2128-8-18**] 08:38 PM 65 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2128-8-15**] 11:00 AM
   20 Gauge - [**2128-8-15**] 03:06 PM
   Arterial Line - [**2128-8-15**] 04:00 PM
   Multi Lumen - [**2128-8-17**] 03:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2128-08-20 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   I/O: even at midnight
   Given 10mg IV lasix at midnight with albumin -> since midnight, has
   been -836
   Weaned FiO2 to 50%
   No episodes of hypotension overnight; off pressor requirement
   Onc recs: no new recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-8-18**] 07:53 PM
   Cefipime - [**2128-8-19**] 03:57 AM
   Ciprofloxacin - [**2128-8-19**] 03:57 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-8-19**] 08:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-20**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96.1
   HR: 91 (84 - 100) bpm
   BP: 109/52(71) {93/46(62) - 126/62(82)} mmHg
   RR: 13 (6 - 17) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.1 kg (admission): 63.7 kg
   Height: 73 Inch
    CVP: 3 (3 - 12)mmHg
   Total In:
                                                                  3,683 mL
                                                                  1,064 mL
   PO:
   TF:
                                                                  1,563 mL
                                                                    481 mL
   IVF:
                                                                  2,020 mL
                                                                    533 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  3,670 mL
                                                                  1,900 mL
   Urine:
                                                                  2,820 mL
                                                                  1,400 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                     13 mL
                                                                   -836 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 900 (1 - 1,196) mL
   PS : 5 cmH2O
   RR (Spontaneous): 6
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 7.1 L/min
   Physical Examination
   Labs / Radiology
   187 K/uL
   9.1g/dL
   145 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.1 mEq/L
   23 mg/dL
   102 mEq/L
   133 mEq/L
   29.1 %
   K/uL
        [image002.jpg]
                             [**2128-8-16**]  10:25 AM
                             [**2128-8-16**]  02:34 PM
                             [**2128-8-16**]  04:13 PM
                             [**2128-8-16**]  08:53 PM
                             [**2128-8-17**]  03:54 AM
                             [**2128-8-18**]  04:17 AM
                             [**2128-8-18**]  12:30 PM
                             [**2128-8-18**]  10:30 PM
                             [**2128-8-18**]  11:13 PM
                             [**2128-8-19**]  04:33 AM
   WBC
   20.7
   22.8
   15.3
   Hct
   29.4
   30.7
   31.0
   Plt
   243
   278
   236
   Cr
   0.6
   0.7
   0.6
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   26
   26
   25
   25
   26
   Glucose
   116
   173
   154
   145
   pH: 7.46, PCO2: 44, PO2: 105.  Ca++:7.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   CXR: decreased haziness/opacities of lung fields bilaterally
   MICRO:
   [**2128-8-19**]: urine cx pending NGTD
   [**2128-8-19**]: blood cx pending NGTD
   Assessment and Plan
   60 year old male with a history of invasive squamous cell carcinoma of
   the oropharynx and tongue is transferred to the ICU for hypoxic
   respiratory failure and hypotension.
   .
   Acute hypoxic resp failure in setting of mucus plugging and HAP,
   pulmonary edema and effusions. Poor secretion clearance in setting of
   limited oral opening and sedation from ongoing pain medication
   requirement will be a long standing issue and there have been ongoing
   discussions regarding possible tracheostomy placement.  Additionally,
   pt is at risk for aspiration and emesis in setting of chemo.  At
   present, barriers to extubation remain peep dep, pulm edema and poor
   airway in setting of inability to open mouth.
   Agree with plan to complete 8 day course of cipro for e coli HAP (day
   6).  B/l effusions and pulm edema improving by imaging and able to wean
   fio2 to 50%.  Will follow lytes and renal fx and continue diuresis (alb
   and lasix) with goal 500-1L neg.  Continue PS, mdis and pulm toilet.
   Will check abg and wean fio2 to 40% and see if able to decrease peep.
   Over wkd may be able to assess for SBT if on elss peep.  While we
   continue to work toward eweaning from vent, given his secretions and
   airway issues, feel he will need trach for airway control and secretion
   management and will c/s IP for procedure early next week.
   His leukocytosis con
t to improve and he remains af, noting he is on
   steroids.  Low threshold for recx
ing and broadening coverage in
   setting of clinical decline.
   Continue chemo per onc team.  Will monitor for capillary leak
   syndrome/edema.   Hyponatremia appears multifactorial related to volume
   status and siadh.  Continue to follow na for trend.
   # Hypoxic Respiratory Failure:  Occurred in setting of RLL
   atelectasis/mucous plugging, HAP, worsening pulmonary effusions
   limiting re-expansion of the lung love.  Also contributing are poor
   secretion and clearance of oral secretions due to oral opening and
   sedation.  Patient now intubated nasotracheally.  Currently on PS and
   stable.
   - f/u BAL cultures for HAP
 e. coli from BAL is pan sensitive.  Will
   discontinue cefepime and vancomycin.
   - continue ciprofloxacin (on day 6) until [**2128-8-22**] (day 8)
   - decrease FiO2 to 40% as tolerated
   - attempt decrease in PEEP if stable at 40% FiO2 as tolerated
   - aim for extubation over weekend
   - no need for emergent tracheostomy as airway currently stable, will
   rediscuss if necessary for planned treatment of head and neck cancer
   - repeat ABG
    .
   # B/L effusions: initially increased in setting of fluids, given low
   albumin.  Effusions are currently decreasing.  Unclear if that is
   impacting lung re-expansion.  Also with pulm edema after sig fluids.
   Will attempt gentle diurese using albumin and lasix.
   - consider IR guided tap of pleural effusions if effusions worsen.
   - continue current vent settings with PS, mdis and pulm toliet.
   - continue to assess for possible extubation
   - f/u with renal function with goal of -500cc balance yesterday.  If cr
   is stable, increase goal to 1-1.5L negative balance.
   # Septic Shock:  Likley secondary to sepsis in setting of pneumonia.
   BP stable overnight, no pressors requirement.  Currently with PICC line
   and CVL for access.
   - Normotensive overnight.  Continue to monitor urine outpt.
   - continue ciprofloxacin for antibiotic coverage given BAL
   sensitivities. Currently day [**5-24**].
   - IVF boluses for target MAP > 60, UOP > 30 cc/hr
   - arterial line placed for closer monitoring
   - followup blood, urine, sputum, and stool cultures
   # Squamous Cell Carcinoma of oropharynx and tongue:  continue
   chemotherapy.
   - continue chemo
   - touch base with oncology regarding recommendations
   - continue 5-FU
   # Leukocytosis: Continuing to downtrend. Likely infectious vs. hx of
   steroids.
   - continue ciprofloxacin for antibiotic coverage
   - continue to monitor
   # Malnutrition:  Patient presented with dehydration now s/p PEG tube
   placement for nutritional support.
   - continue tube feeds
   - check albumin
   - nutrition following
   # Anemia:  Back at baseline hematocrit, which is in the high 20s.
   Normocytic.  Unclear etiology but in setting of malignancy, and
   ileostomy, with possible nutritional deficiencies. Anemia of
   inflammation also plays a role.
   - active type and screen
   - consider transfusion if ScVO2 below 70
   - not in DIC, not hemolyzing, low reticulocyte count
   - continue iron supplements, folate
   # Hyponatremia: possibly [**1-19**] hypovolemia vs SIADH (in the setting of
   squamous cell ca of lung vs. pulmonary process)
   - Urine Na 25 and Urine Osm 798.
   - continue to monitor, stable
   # Back Pain:  Patient was receiving morphine PCA on floor for acute
   compression fractures.
   - fentanyl for sedation and pain control while intubated
   # GERD:
   - continue lansoprazole
   # Depression:
   - continue bupropion and citalopram
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2128-8-19**] 09:12 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2128-8-15**] 11:00 AM
   20 Gauge - [**2128-8-15**] 03:06 PM
   Arterial Line - [**2128-8-15**] 04:00 PM
   Multi Lumen - [**2128-8-17**] 03:02 PM
   Prophylaxis:
   DVT:  sub q heparin
   Stress ulcer: lansoprazole
   VAP:  vap bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2128-08-20 10:33:00 Physician Attending Progress Note
Chief Complaint: acute hypoxic resp failure, hap, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo M w/ recently diagnosed SqCCa of oropharynx and tongue
   transferred to ICU for management of acute hypoxemic resp failure and
   hypotension/sepsis in setting of HAP.
   24 Hour Events:
   autodiuresing well, tolerated 1 dose lasix and albumin with good u/o
   response
   remains off pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-8-18**] 07:53 PM
   Cefipime - [**2128-8-19**] 03:57 AM
   Ciprofloxacin - [**2128-8-19**] 03:57 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-8-20**] 08:36 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-20**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96.1
   HR: 99 (84 - 100) bpm
   BP: 89/47(62) {89/47(62) - 126/62(82)} mmHg
   RR: 7 (6 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.1 kg (admission): 63.7 kg
   Height: 73 Inch
   CVP: 9 (3 - 12)mmHg
   Total In:
                                                                  3,683 mL
                                                                  1,575 mL
   PO:
   TF:
                                                                  1,563 mL
                                                                    659 mL
   IVF:
                                                                  2,020 mL
                                                                    785 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  3,670 mL
                                                                  2,410 mL
   Urine:
                                                                  2,820 mL
                                                                  1,910 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                     13 mL
                                                                   -835 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,016 (1 - 1,196) mL
   PS : 5 cmH2O
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NTT
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   187 K/uL
   145 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.1 mEq/L
   23 mg/dL
   102 mEq/L
   133 mEq/L
   29.1 %
   13.2 K/uL
        [image002.jpg]
                             [**2128-8-16**]  02:34 PM
                             [**2128-8-16**]  04:13 PM
                             [**2128-8-16**]  08:53 PM
                             [**2128-8-17**]  03:54 AM
                             [**2128-8-18**]  04:17 AM
                             [**2128-8-18**]  12:30 PM
                             [**2128-8-18**]  10:30 PM
                             [**2128-8-18**]  11:13 PM
                             [**2128-8-19**]  04:33 AM
                             [**2128-8-20**]  05:07 AM
   WBC
   20.7
   22.8
   15.3
   13.2
   Hct
   29.4
   30.7
   31.0
   29.1
   Plt
   243
   278
   236
   187
   Cr
   0.6
   0.7
   0.6
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   26
   25
   25
   26
   Glucose
   116
   173
   154
   145
   Other labs: PT / PTT / INR:12.9/35.2/1.1, CK / CKMB /
   Troponin-T:24/3/<0.01, Differential-Neuts:93.2 %, Lymph:3.2 %, Mono:3.4
   %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, Ca++:7.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Imaging: cxr--improving pulm edema and effusions, LIJ ok, NT high
   Microbiology: micro--no new data back, urine bl pending from [**7-19**]
   bal with 2 strains pan [**Doctor Last Name **] e coli
   Assessment and Plan
   60 yo M w/ recently diagnosed SqCCa of oropharynx and tongue
   transferred to ICU for management of acute hypoxemic resp failure and
   hypotension/sepsis in setting of HAP.
   Primary issues include:
          Sepsis/hypotension (off pressors) (resolved)
          Acute hypoxic resp failure
             HAP (e coli, pan [**Last Name (un) 270**])
                 Capillary leak, edema
             Pleural effusions
              Leukocytosis (improving)
          SqCCa of oropharynx and tongue
          Depression (celexa)
              Hyponatremia (new, mild, stable)
              Anemia (stable hct)
   Acute hypoxic resp failure in setting of mucus plugging and HAP,
   pulmonary edema and effusions. Poor secretion clearance in setting of
   limited oral opening and sedation from ongoing pain medication
   requirement will be a long standing issue and there have been ongoing
   discussions regarding possible tracheostomy placement.  Additionally,
   pt is at risk for aspiration and emesis in setting of chemo.  At
   present, barriers to extubation remain peep dep, pulm edema and poor
   airway in setting of inability to open mouth.
   Agree with plan to complete 8 day course of cipro for e coli HAP (day
   6).  B/l effusions and pulm edema improving by imaging and able to wean
   fio2 to 50%.  Will follow lytes and renal fx and continue diuresis (alb
   and lasix) with goal 500-1L neg.  Continue PS, mdis and pulm toilet.
   Will check abg and wean fio2 to 40% and see if able to decrease peep.
   Over wkd may be able to assess for SBT if on elss peep.  While we
   continue to work toward eweaning from vent, given his secretions and
   airway issues, feel he will need trach for airway control and secretion
   management and will c/s IP for procedure early next week.
   His leukocytosis con
t to improve and he remains af, noting he is on
   steroids.  Low threshold for recx
ing and broadening coverage in
   setting of clinical decline.
   Continue chemo per onc team.  Will monitor for capillary leak
   syndrome/edema.   Hyponatremia appears multifactorial related to volume
   status and siadh.  Continue to follow na for trend.
    Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2128-8-19**] 09:12 PM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2128-8-15**] 11:00 AM
   20 Gauge - [**2128-8-15**] 03:06 PM
   Arterial Line - [**2128-8-15**] 04:00 PM
   Multi Lumen - [**2128-8-17**] 03:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2128-08-21 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - goal I/O: -1 to 1.5liter today
   - decrease FiO2 from 50% to 40%, ABG showed 7.46 44 105 32; PEEP turned
   down from 8 to 5, ABG showed 7.47/41/66/31, repeat ABG an hour later
   showed 7.44/46/81/32, so kept him at 5/5 and 40% FiO2
   - changed TF to nutren pulmonary per nutrition recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-8-18**] 07:53 PM
   Cefipime - [**2128-8-19**] 03:57 AM
   Ciprofloxacin - [**2128-8-21**] 04:04 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-8-20**] 09:18 PM
   Fentanyl - [**2128-8-20**] 11:07 PM
   Midazolam (Versed) - [**2128-8-20**] 11:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-21**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96
   HR: 86 (82 - 104) bpm
   BP: 128/57(78) {89/47(62) - 146/71(95)} mmHg
   RR: 11 (6 - 13) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.6 kg (admission): 63.7 kg
   Height: 73 Inch
    CVP: 7 (5 - 13)mmHg
   Total In:
                                                                  4,091 mL
                                                                  1,070 mL
   PO:
   TF:
                                                                  1,514 mL
                                                                    283 mL
   IVF:
                                                                  2,356 mL
                                                                    787 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  4,960 mL
                                                                  1,250 mL
   Urine:
                                                                  3,910 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -869 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,158 (127 - 1,208) mL
   PS : 5 cmH2O
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 8
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.46/47/77/27/8
   Ve: 6 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General: Mildly sedated on propofol, able to nod to questions
   appropriatelt
   HEENT: Sclera anicteric, MM dry, nasotracheal tube in place, unable to
   open mouth significantly
   Neck: supple, JVP not elevated, no LAD
   Lungs: Auscultated anteriorly.  Decreased breath sound over  right
   lower lung field with rales heard over right lateral lobe, left side
   clear
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, PEG tube site healing
   well with no erythema or pus, ileostomy bag in place, site intact
   GU: foley draining clear urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   144 K/uL
   9.3 g/dL
   116 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   28 mg/dL
   98 mEq/L
   133 mEq/L
   28.8 %
   8.6 K/uL
        [image002.jpg]
                             [**2128-8-18**]  10:30 PM
                             [**2128-8-18**]  11:13 PM
                             [**2128-8-19**]  04:33 AM
                             [**2128-8-20**]  05:07 AM
                             [**2128-8-20**]  10:44 AM
                             [**2128-8-20**]  06:27 PM
                             [**2128-8-20**]  09:13 PM
                             [**2128-8-20**]  11:26 PM
                             [**2128-8-21**]  04:51 AM
                             [**2128-8-21**]  05:11 AM
   WBC
   15.3
   13.2
   8.6
   Hct
   31.0
   29.1
   28.8
   Plt
   [**Telephone/Fax (3) 9853**]
   Cr
   0.7
   0.8
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   26
   32
   31
   32
   29
   34
   Glucose
   145
   116
   116
   Other labs:
   PT / PTT / INR:11.3/29.2/0.9,
   Lactic Acid:1.6 mmol/L,
   Ca++:6.5 mg/dL, Mg++:1.5 mg/dL, PO4:2.1 mg/dL
   .
   MICRO:
   blood culture from [**8-19**], [**8-18**], [**8-15**]: NGTD
   .
   IMAGING: CXR from today (my read):
   Assessment and Plan
   60 year old male with a history of invasive squamous cell carcinoma of
   the oropharynx and tongue is transferred to the ICU for hypoxic
   respiratory failure and hypotension.
   .
   # Hypoxic Respiratory Failure:  Occurred in setting of RLL
   atelectasis/mucous plugging, HAP, worsening pulmonary effusions
   limiting re-expansion of the lung love.  Also contributing are poor
   secretion and clearance of oral secretions due to oral opening and
   sedation.  Patient now intubated nasotracheally.  Currently on PS and
   stable.  High risk for sinusitis/infection with nasotrach in presence
   of neutropenia; his WBC has been trending down
   - consult IP and radiology for possible trach
   - f/u BAL cultures for HAP
 e. coli from BAL is pan sensitive.
   - consider switch to levoflox for resp infection vs. finishing course
   of cipro
   - decrease FiO2 to 40% as tolerated
   - attempt decrease in PEEP if stable at 40% FiO2 as tolerated
   - repeat ABG this AM.  Attempt SBT over weekend if low RSBI score.  Try
   to wean from vent, but given secretions and airway issues, may need
   trach for airway control.
    .
   # B/L effusions: initially increased in setting of fluid resuscitation,
   given low albumin.  Effusions are currently decreasing.  Unclear if
   that is impacting lung re-expansion.  Patient is diuresing well.  If cr
   stable, will continue gentle diurese using albumin and lasix.
   - continue current vent settings with PS, mdis and pulm toliet.
   - continue to assess for possible extubation
   - f/u with renal function with goal of -500cc balance yesterday.
   Attemp goal of 1L negative balance.
   # Septic Shock:  Likley secondary to sepsis in setting of pneumonia.
   BP stable overnight, no pressors requirement.  Currently with PICC line
   and CVL for access.
   - f/u with oncology recs considering length of CVL placement
   - Normotensive overnight.  Continue to monitor urine outpt.
   - continue ciprofloxacin for antibiotic coverage given BAL
   sensitivities. Currently day [**5-24**].
   - IVF boluses for target MAP > 60, UOP > 30 cc/hr
   - arterial line placed for closer monitoring
   - followup blood, urine, sputum, and stool cultures
   # Squamous Cell Carcinoma of oropharynx and tongue:  continue
   chemotherapy.
   - continue chemo
   - touch base with oncology regarding recommendations
   - finish last day of 5-FU
   # Leukocytosis: Continuing to downtrend. Likely infectious vs. hx of
   steroids.
   - continue antibiotic coverage
   - continue to monitor
   # Malnutrition:  Patient presented with dehydration now s/p PEG tube
   placement for nutritional support.
   - continue tube feeds
   - check albumin
   - nutrition following
   # Anemia:  Back at baseline hematocrit, which is in the high 20s.
   Normocytic.  Unclear etiology but in setting of malignancy, and
   ileostomy, with possible nutritional deficiencies. Anemia of
   inflammation also plays a role. He is not in DIC, not hemolyzing, and
   presents with low reticulocyte count.
   - active type and screen
   - consider transfusion if ScVO2 below 70
   - continue iron supplements, folate
   # Hyponatremia: Currently stable. Possibly [**1-19**] hypovolemia vs SIADH (in
   the setting of squamous cell ca of lung vs. pulmonary process)
   - Urine Na 25 and Urine Osm 798.
   - continue to monitor
   # Back Pain:  Patient was receiving morphine PCA on floor for acute
   compression fractures.
   - fentanyl for sedation and pain control while intubated
   # GERD:
   - continue lansoprazole
   # Depression:
   - continue bupropion and citalopram
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2128-8-20**] 10:26 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2128-8-15**] 11:00 AM
   Arterial Line - [**2128-8-15**] 04:00 PM
   Multi Lumen - [**2128-8-17**] 03:02 PM
   Prophylaxis:
   DVT:  sub q heparin
   Stress ulcer: lansoprazole
   VAP:  vap bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2128-08-22 06:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Onc recs ([**Location (un) 3805**])-  re: trach, can stop chemo when off floor for
   trach, stop Vit C
   - IP: will trach tomorrow AM, active type & screen, NPO after midnight,
   coags in AM; wife consented over phone
   - no lasix or albumin given yesterday
   - changed from Cipro to Levo (day 8 of abx today)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2128-8-21**] 04:04 AM
   Levofloxacin - [**2128-8-21**] 08:11 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-8-21**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-22**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.2
   HR: 104 (84 - 123) bpm
   BP: 101/53(67) {91/46(60) - 166/90(113)} mmHg
   RR: 7 (7 - 21) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.6 kg (admission): 63.7 kg
   Height: 73 Inch
    CVP: 10 (7 - 13)mmHg
   Total In:
                                                                  4,344 mL
                                                                    519 mL
   PO:
   TF:
                                                                    960 mL
   IVF:
                                                                  3,044 mL
                                                                    519 mL
   Blood products:
   Total out:
                                                                  3,453 mL
                                                                    835 mL
   Urine:
                                                                  2,903 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    891 mL
                                                                   -314 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 950 (84 - 1,261) mL
   PS : 5 cmH2O
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 15
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.46/42/70/28/5
   Ve: 6.3 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General: able to nod to questions appropriately
   HEENT: Sclera anicteric, MM dry, nasotracheal tube in place, unable to
   open mouth significantly
   Neck: supple, JVP not elevated, no LAD
   Lungs: Auscultated anteriorly.
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, PEG tube site healing
   well with no erythema or pus, ileostomy bag in place, site intact
   GU: foley draining clear urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   105 K/uL
   8.9 g/dL
   86 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.8 mEq/L
   30 mg/dL
   97 mEq/L
   133 mEq/L
   27.4 %
   5.9 K/uL
        [image002.jpg]
                             [**2128-8-20**]  05:07 AM
                             [**2128-8-20**]  10:44 AM
                             [**2128-8-20**]  06:27 PM
                             [**2128-8-20**]  09:13 PM
                             [**2128-8-20**]  11:26 PM
                             [**2128-8-21**]  04:51 AM
                             [**2128-8-21**]  05:11 AM
                             [**2128-8-21**]  05:02 PM
                             [**2128-8-22**]  04:09 AM
                             [**2128-8-22**]  04:43 AM
   WBC
   13.2
   8.6
   5.9
   Hct
   29.1
   28.8
   27.4
   Plt
   187
   144
   105
   Cr
   0.8
   0.7
   0.7
   0.7
   TCO2
   32
   31
   32
   29
   34
   31
   Glucose
   116
   116
   91
   86
   Other labs: PT / PTT / INR:11.7/32.5/1.0, CK / CKMB /
   Troponin-T:24/3/<0.01, Differential-Neuts:93.2 %, Lymph:3.2 %, Mono:3.4
   %, Eos:0.1 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, Ca++:7.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Micro:
   [**8-15**]: blood cx: final NG
   [**8-15**]: urine cx: final NG
   [**8-18**]: blood cx: NGTD
   [**8-19**]: blood cx: NGTD
   [**8-19**]: urine cx: final NG
   No imaging for today.
   Assessment and Plan
   60 year old male with invasive squamous cell carcinoma of the
   oropharynx and tongue is here in ICU for hypoxic respiratory failure
   and hypotension.
   .
   Started chemo [**8-17**] (taxotere), with planned several days 5FU. Was
   re-bronched [**8-18**] for anticipated clean out, but with underwhelming
   secretions - frothy - suspect cap leak [**1-19**] chemo), low CVP, required
   some pressors o/n, pan-cultured, pending. [**8-19**]: Worsening pulmonary
   edema post-BAL, responded well to diuresis and some increasing PEEP.
   [**8-20**]: Improvement with pulm edema/effusions c diuresis o/n with TBB
   negative -800, continuing to wean PEEP/O2. Leukocytosis improving,
   continuing ciprofloxacin through Sunday (for E. coli in BAL). Cont
   chemo (5FU). FiO2 and PEEP reduced - WBC trending down
   Overnight in ICU s/p Trach this AM - Tm 99.7 HR 80-104, SBP 91-166, RR
   11 Sat 95% PSV 5/PEEP 5/FiO2 .4, ABG 7.46/42/70. Sedated post-trach.
   Trach in place. Lungs cta, RRR, abd benign - PEG in place, ext no
   edema. Labs WBC 5.9K, HCT 27.4 PLT 105, K3.8, Cr .7. Cultures negative
   to date.
   Complex critically ill 60 yo man with invasive oral sq cell carcinoma
   currently requiring mechanical ventilatory support. We are treating
   with chemotherapy in hopes of reducing the size of the tumor. Our
   concern is that he will be getting neutropenic in the near future and
   we have completed his course of antibiotics. He is s/p trach and we
   will try to wean from mechanical ventilation to trach collar today.
   Continue nutrition via PEG. Will d/c CVL today.
   # Hypoxic Respiratory Failure:  likely occurred secondary to aspiration
   pneumonia. Sputum was positive for pan-sensitive E.coli. Occurred in
   setting of RLL atelectasis/mucous plugging, HAP, worsening pulmonary
   effusions limiting re-expansion of the lung love.  Patient now
   intubated nasotracheally, on PS and stable.  Barriers to extubation
   include poor clearance of oral secretions due to oral opening and
   sedation, and tumor burden in the oropharynx and tongue, necessitating
   a trach. Even if he can be safely extubated, he likely will need trach
   anyway given his risk of aspiration in the setting of high tumor burden
   and nausea associated with his future chemo therapy. With his WBC
   trending down, It wold be safer to trach pt when his WBC is still
   within normal range. Also, would not be ideal to leave a nasotracheal
   tube in when pt is leukopenic.
   - consult IP and radiology for possible trach this weekend
   - switch to levoflox for resp infection (tomorrow is the last day)
   - decrease FiO2 to 40% as tolerated
   - continue to attempt decrease his ventilator dependence
   .
   # B/L effusions: initially increased in setting of fluid resuscitation,
   given low albumin.  Improved after gentle diurese using albumin and
   lasix.  Now slightly more effusions on CXR.
   - continue current vent settings with PS, mdis and pulm toliet.
   - Attemp goal of 1L negative balance today
   .
   # Squamous Cell Carcinoma of oropharynx and tongue:  continue
   chemotherapy.
   - continue chemo
   - touch base with oncology regarding recommendations
   - finish last day of 5-FU (started on [**8-17**])
   - touch base with oncology regarding the interaction between chemo
   drugs and all the vitamins he is currently receiving
   .
   # Septic Shock:  Resolved. Likley secondary to sepsis in setting of
   pneumonia.  BP stable overnight, no pressors requirement.  Currently
   with PICC line and CVL for access.
   - f/u with oncology recs considering length of CVL placement
   - switch to levoflox for resp infection (tomorrow is the last day)
   - Normotensive overnight.  Continue to monitor urine outpt
   - IVF boluses for target MAP > 60, UOP > 30 cc/hr
   - followup blood, urine, sputum, and stool cultures
   .
   # Leukocytosis: Now trending down, heading toward leukopenia. Likely
   secondary to chemotherapy.
   - continue to monitor
   # Malnutrition:  Patient presented with dehydration now s/p PEG tube
   placement for nutritional support.
   - continue tube feeds
   - nutrition following
   # Anemia:  Back at baseline hematocrit, which is in the high 20s.
   Normocytic.  Unclear etiology but in setting of malignancy, and
   ileostomy, with possible nutritional deficiencies. Anemia of
   inflammation also plays a role. He is not in DIC, not hemolyzing, and
   presents with low reticulocyte count.
   - active type and screen
   - consider transfusion if ScVO2 below 70
   - continue iron supplements, folate for now, touch base with oncology
   whether they interfere with chemotherapy.
   # Hyponatremia: Currently stable. Possibly [**1-19**] hypovolemia vs SIADH (in
   the setting of squamous cell ca of lung vs. pulmonary process). Urine
   Na 25 and Urine Osm 798.
   - continue to monitor
   # Back Pain:
   - fentanyl for sedation and pain control while intubated
   # GERD:
   - continue lansoprazole
   # Depression:
   - continue bupropion and citalopram
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2128-8-20**] 10:26 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2128-8-15**] 11:00 AM
   Arterial Line - [**2128-8-15**] 04:00 PM
   Multi Lumen - [**2128-8-17**] 03:02 PM
   Prophylaxis:
   DVT:  sub q heparin
   Stress ulcer: lansoprazole
   VAP:  vap bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2128-08-23 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2128-8-22**] 01:44 PM
 ARTERIAL LINE - STOP [**2128-8-22**] 07:59 PM
   [**8-22**]
   - now on trach collar
   - Was agitated and complaining of pain.  Given haldol 1mg PO TID/PRN
   agitation.  Stopped fentanyl and midazolam;  started morphine 10mg PO
   q4h, 2-4mg morphine IV q3h: PRN pain.  Calmer following medication
   changes.
   -triple lumen not d/ced because patient ripped out a line
   -I/O: at midnight, -2875.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2128-8-21**] 04:04 AM
   Levofloxacin - [**2128-8-22**] 08:59 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2128-8-22**] 08:00 PM
   Fentanyl - [**2128-8-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2128-8-22**] 08:59 PM
   Haloperidol (Haldol) - [**2128-8-22**] 09:45 PM
   Morphine Sulfate - [**2128-8-22**] 11:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-23**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.7
   HR: 106 (84 - 143) bpm
   BP: 124/63(78) {100/51(63) - 127/76(86)} mmHg
   RR: 24 (0 - 24) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.6 kg (admission): 63.7 kg
   Height: 73 Inch
    CVP: 12 (3 - 13)mmHg
   Total In:
                                                                  1,990 mL
                                                                    441 mL
   PO:
   TF:
                                                                    236 mL
                                                                    274 mL
   IVF:
                                                                  1,694 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  4,865 mL
                                                                  1,360 mL
   Urine:
                                                                  4,465 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,875 mL
                                                                   -917 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,118 (1,045 - 1,118) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 92%
   ABG: 7.54/33/64/30/5
   Ve: 8.2 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General: able to nod to questions appropriately
   HEENT: Sclera anicteric, MM dry, nasotracheal tube in place, unable to
   open mouth significantly
   Neck: supple, JVP not elevated, no LAD
   Lungs: Auscultated anteriorly.
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, PEG tube site healing
   well with no erythema or pus, ileostomy bag in place, site intact
   GU: foley draining clear urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   71 K/uL
   8.9 g/dL
   106 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.5 mEq/L
   23 mg/dL
   97 mEq/L
   134 mEq/L
   27.4 %
   5.9 K/uL
        [image002.jpg]
                             [**2128-8-20**]  06:27 PM
                             [**2128-8-20**]  09:13 PM
                             [**2128-8-20**]  11:26 PM
                             [**2128-8-21**]  04:51 AM
                             [**2128-8-21**]  05:11 AM
                             [**2128-8-21**]  05:02 PM
                             [**2128-8-22**]  04:09 AM
                             [**2128-8-22**]  04:43 AM
                             [**2128-8-22**]  02:35 PM
                             [**2128-8-23**]  04:10 AM
   WBC
   8.6
   5.9
   Hct
   28.8
   27.4
   Plt
   144
   105
   71
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   31
   32
   29
   34
   31
   29
   Glucose
   116
   91
   86
   106
   Other labs:
   PT / PTT / INR:12.9/37.3/1.1
   CK / CKMB / Troponin-T:24/3/<0.01
   Differential-Neuts:93.2 %, Lymph:3.2 %, Mono:3.4 %, Eos:0.1 %
   Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, Ca++:7.0 mg/dL, Mg++:1.5
   mg/dL, PO4:2.4 mg/dL
   Micro:
   [**8-15**]: blood cx: final NG
   [**8-15**]: urine cx: final NG
   [**8-18**]: blood cx: NGTD
   [**8-19**]: blood cx: NGTD
   [**8-19**]: urine cx: final NG
   No imaging for today.
   Assessment and Plan
   60 year old male with invasive squamous cell carcinoma of the
   oropharynx and tongue is here in ICU for hypoxic respiratory failure
   and hypotension.
   .
   # Hypoxic Respiratory Failure:  likely occurred secondary to aspiration
   pneumonia. Sputum was positive for pan-sensitive E.coli. Occurred in
   setting of RLL atelectasis/mucous plugging, HAP, worsening pulmonary
   effusions limiting re-expansion of the lung love.  Barriers to
   extubation include poor clearance of oral secretions due to oral
   opening and sedation, and tumor burden in the oropharynx and tongue,
   necessitating a trach. - consult IP and radiology for possible trach
   this weekend
   - s/p tracheostomy, try to wean off mechanical ventilation to trach
   collar today.
   - switch to levoflox for resp infection (today  is the last day)
   - continue to attempt decrease his ventilator dependence
   .
   # B/L effusions: initially increased in setting of fluid resuscitation,
   given low albumin.  Improved after gentle diureses using albumin and
   lasix.
   - continue current vent settings with PS, mdis and pulm toliet.
   - Attemp goal of 1L negative balance today
   .
   # Squamous Cell Carcinoma of oropharynx and tongue:  continue
   chemotherapy.
   - continue chemo
   - touch base with oncology regarding recommendations
   - finish last day of 5-FU (started on [**8-17**])
   - watch for neutropenia
   - vitamin C d/ced yesterday
   .
   # Septic Shock:  Resolved. Likley secondary to sepsis in setting of
   pneumonia.  BP stable overnight, no pressors requirement.  Currently
   with PICC line and CVL for access.
   - f/u with oncology recs considering length of CVL placement
   - switch to levoflox for resp infection (tomorrow is the last day)
   - Normotensive overnight.  Continue to monitor urine outpt
   - IVF boluses for target MAP > 60, UOP > 30 cc/hr
   - followup blood, urine, sputum, and stool cultures
   .
   # Leukocytosis: Now trending down, heading toward leukopenia. Likely
   secondary to chemotherapy.
   - continue to monitor
   # Malnutrition:  Patient presented with dehydration now s/p PEG tube
   placement for nutritional support.
   - continue tube feeds
   - nutrition following
   # Anemia:  Back at baseline hematocrit, which is in the high 20s.
   Normocytic.  Unclear etiology but in setting of malignancy, and
   ileostomy, with possible nutritional deficiencies. Anemia of
   inflammation also plays a role. He is not in DIC, not hemolyzing, and
   presents with low reticulocyte count.
   - active type and screen
   - consider transfusion if ScVO2 below 70
   - continue iron supplements, folate for now, touch base with oncology
   whether they interfere with chemotherapy.
   # Hyponatremia: Currently stable. Possibly [**1-19**] hypovolemia vs SIADH (in
   the setting of squamous cell ca of lung vs. pulmonary process). Urine
   Na 25 and Urine Osm 798.
   - continue to monitor
   # Back Pain:
   - fentanyl for sedation and pain control while intubated
   # GERD:
   - continue lansoprazole
   # Depression:
   - continue bupropion and citalopram
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2128-8-23**] 06:25 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2128-8-15**] 11:00 AM
   Multi Lumen - [**2128-8-17**] 03:02 PM
   Prophylaxis:
   DVT:  sub q heparin
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2128-08-23 09:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-22**]
   - now on trach collar
   - Was agitated and complaining of pain.  Given haldol 1mg PO TID/PRN
   agitation.  Stopped fentanyl and midazolam;  started morphine 10mg PO
   q4h, 2-4mg morphine IV q3h: PRN pain.  Calmer following medication
   changes.
   -triple lumen not d/ced because patient ripped out a line
   -I/O: at midnight, -2875.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2128-8-21**] 04:04 AM
   Levofloxacin - [**2128-8-22**] 08:59 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2128-8-22**] 08:00 PM
   Fentanyl - [**2128-8-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2128-8-22**] 08:59 PM
   Haloperidol (Haldol) - [**2128-8-22**] 09:45 PM
   Morphine Sulfate - [**2128-8-22**] 11:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-23**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 102 (84 - 143) bpm
   BP: 119/59(73) {100/51(63) - 131/76(86)} mmHg
   RR: 19 (0 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.6 kg (admission): 63.7 kg
   Height: 73 Inch
    CVP: 12 (3 - 12)mmHg
   Total In:
                                                                  1,990 mL
                                                                    615 mL
   PO:
   TF:
                                                                    236 mL
                                                                    370 mL
   IVF:
                                                                  1,694 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                  4,865 mL
                                                                  1,720 mL
   Urine:
                                                                  4,465 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,875 mL
                                                                 -1,105 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,118 (1,118 - 1,118) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.54/33/64/30/5
   Ve: 8.2 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General: able to nod to questions appropriately
   HEENT: Sclera anicteric, MM dry, trach collar in place, unable to open
   mouth significantly
   Neck: supple, JVP not elevated, no LAD
   Lungs: Auscultated anteriorly.
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, PEG tube site healing
   well with no erythema or pus, ileostomy bag in place, site intact
   GU: foley draining clear urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   71 K/uL
   8.5 g/dL
   106 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.5 mEq/L
   23 mg/dL
   97 mEq/L
   134 mEq/L
   25.6 %
   1.0 K/uL
        [image002.jpg]
                             [**2128-8-20**]  06:27 PM
                             [**2128-8-20**]  09:13 PM
                             [**2128-8-20**]  11:26 PM
                             [**2128-8-21**]  04:51 AM
                             [**2128-8-21**]  05:11 AM
                             [**2128-8-21**]  05:02 PM
                             [**2128-8-22**]  04:09 AM
                             [**2128-8-22**]  04:43 AM
                             [**2128-8-22**]  02:35 PM
                             [**2128-8-23**]  04:10 AM
   WBC
   8.6
   5.9
   1.0
   Hct
   28.8
   27.4
   25.6
   Plt
   144
   105
   71
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   31
   32
   29
   34
   31
   29
   Glucose
   116
   91
   86
   106
   Other labs: PT / PTT / INR:12.9/37.3/1.1Lactic Acid:1.6 mmol/L,
   Albumin:2.1 g/dL, Ca++:7.0 mg/dL, Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Micro:
   [**8-15**]: blood cx: final NG
   [**8-15**]: urine cx: final NG
   [**8-18**]: blood cx: NGTD
   [**8-19**]: blood cx: NGTD
   [**8-19**]: urine cx: final NG
   CXR:
   FINDINGS: There is a tracheostomy tube with tip 4.2 cm above the
   carina. Bilateral pleural effusions and increased interstitial and
   alveolar markings are again seen suggesting fluid overload. An
   underlying infectious infiltrate cannot be excluded.
   Assessment and Plan
   60 year old male with invasive squamous cell carcinoma of the
   oropharynx and tongue is here in ICU for hypoxic respiratory failure
   and hypotension.
   .
   # Hypoxic Respiratory Failure:  likely occurred secondary to aspiration
   pneumonia. Sputum was positive for pan-sensitive E.coli. Occurred in
   setting of RLL atelectasis/mucous plugging, HAP, worsening pulmonary
   effusions limiting re-expansion of the lung love.  Barriers to
   extubation include poor clearance of oral secretions due to oral
   opening and sedation, and tumor burden in the oropharynx and tongue,
   necessitating a trach. - consult IP and radiology for possible trach
   this weekend
   - s/p tracheostomy, try to wean off mechanical ventilation to trach
   collar today.
   - switch to levoflox for resp infection (today  is the last day)
   - continue to attempt decrease his ventilator dependence
   .
   # B/L effusions: initially increased in setting of fluid resuscitation,
   given low albumin.  Improved after gentle diureses using albumin and
   lasix.
   - continue current vent settings with PS, mdis and pulm toliet.
   - Attemp goal of 1L negative balance today
   .
   # Squamous Cell Carcinoma of oropharynx and tongue:  continue
   chemotherapy.
   - continue chemo
   - touch base with oncology regarding recommendations
   - finish last day of 5-FU (started on [**8-17**])
   - watch for neutropenia
   - vitamin C d/ced yesterday
   .
   # Septic Shock:  Resolved. Likley secondary to sepsis in setting of
   pneumonia.  BP stable overnight, no pressors requirement.  Currently
   with PICC line and CVL for access.
   - f/u with oncology recs considering length of CVL placement
   - switch to levoflox for resp infection (tomorrow is the last day)
   - Normotensive overnight.  Continue to monitor urine outpt
   - IVF boluses for target MAP > 60, UOP > 30 cc/hr
   - followup blood, urine, sputum, and stool cultures
   .
   # Leukocytosis: Now trending down, heading toward leukopenia. Likely
   secondary to chemotherapy.
   - continue to monitor
   # Malnutrition:  Patient presented with dehydration now s/p PEG tube
   placement for nutritional support.
   - continue tube feeds
   - nutrition following
   # Anemia:  Back at baseline hematocrit, which is in the high 20s.
   Normocytic.  Unclear etiology but in setting of malignancy, and
   ileostomy, with possible nutritional deficiencies. Anemia of
   inflammation also plays a role. He is not in DIC, not hemolyzing, and
   presents with low reticulocyte count.
   - active type and screen
   - consider transfusion if ScVO2 below 70
   - continue iron supplements, folate for now, touch base with oncology
   whether they interfere with chemotherapy.
   # Hyponatremia: Currently stable. Possibly [**1-19**] hypovolemia vs SIADH (in
   the setting of squamous cell ca of lung vs. pulmonary process). Urine
   Na 25 and Urine Osm 798.
   - continue to monitor
   # Back Pain:
   - fentanyl for sedation and pain control while intubated
   # GERD:
   - continue lansoprazole
   # Depression:
   - continue bupropion and citalopram
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2128-8-23**] 06:25 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2128-8-15**] 11:00 AM
   Multi Lumen - [**2128-8-17**] 03:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: